US07531532B2
t-Butyl 4-(4-{2-fluoro-4-[3-(4-fluorophenyl)acetylthioureido]phenoxy}pyridin-2-ylcarbamoyl)piperidine-1-carboxylate (38.8 mg, 0.062 mmol) and trifluoroacetic acid (0.50 ml) gave a crude product of piperidine-4-carboxylic acid (4-{2-fluoro-4-[3-(4-fluorophenyl)acetylthioureido]phenoxy}pyridin-2-yl}amide (ESI-MS (m/z):526). The crude product, formalin (37% aqueous solution; 0.0231 ml), acetic acid (0.0142 ml) and sodium triacetoxyborohydride (26.3 mg) gave the titled compound (1.1 mg, 3.29%) as colorless powder.

reactant | trifluoroacetic acid | 0.50 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | piperidine-4-carboxylic acid (4-{2-fluoro-4-[3-(4-fluorophenyl)acetylthioureido]phenoxy}pyridin-2-yl}amide | FC1=C(OC2=CC(=NC=C2)NC(=O)C2CCNCC2)C=CC(=C1)NC(=S)NC(CC1=CC=C(C=C1)F)=O | C26H25F2N5O3S
product | t-Butyl 4-(4-{2-fluoro-4-[3-(4-fluorophenyl)acetylthioureido]phenoxy}pyridin-2-ylcarbamoyl)piperidine-1-carboxylate | 0.062 mmol, 38.8 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC(=C1)NC(=S)NC(CC1=CC=C(C=C1)F)=O | C31H33F2N5O5S
